US05990101
2-hydroxymethyl-3-methylimidazo[5,1-b]thiazole
A 1.56 g portion of sodium boron hydride was added to 60 ml of an ethanol solution containing 1.684 g of 2-ethoxycarbonyl-3-methylimidazo[5,1-b]thiazole, and the mixture was then stirred at room temperature for 4 days. The solvent was evaporated under reduced pressure, and water was then added thereto. The solution was extracted twice with dichloromethane, and the combined organic layer was dried over anhydrous magnesium sulfate and then filtered. Afterward, the solvent was evaporated under reduced pressure to obtain 1.33 g of the title compound.

reactant | sodium boron hydride | B.[Na]
reactant | 2-ethoxycarbonyl-3-methylimidazo[5,1-b]thiazole | 1.684 g | C(C)OC(=O)C1=C(N2C(S1)=CN=C2)C | C9H10N2O2S
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-hydroxymethyl-3-methylimidazo[5,1-b]thiazole | 1.33 g | OCC1=C(N2C(S1)=CN=C2)C | C7H8N2OS
